US05852023
4-(cis-4-tert-Butylcyclohexylamino)-5-chloro-6-(1-methylsulfinylethyl)pyrimidine
10.25 g (30 mmol) of 4-(cis-4-tert-butylcyclohexylamino)-5-chloro-6-(1-methylthioethyl)pyrimidine were placed in 120 ml of dichloroethane, and a solution of 7.40 g (30 mmol) of 70% 3-chloroperbenzoic acid in 50 ml of dichloromethane was added dropwise at 0° C. The mixture was stirred at room temperature for 8 hours and extracted by stirring with sodium bicarbonate solution and water. The organic phase was dried and concentrated, to give 10.5 g (98% of theory) of a colorless resin (diastereomer mixture).

reactant | 4-(cis-4-tert-butylcyclohexylamino)-5-chloro-6-(1-methylthioethyl)pyrimidine | 30 mmol, 10.25 g | C(C)(C)(C)[C@H]1CC[C@H](CC1)NC1=NC=NC(=C1Cl)C(C)SC | C17H28ClN3S
reactant | 3-chloroperbenzoic acid | 30 mmol, 7.40 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloroethane | 120 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-(cis-4-tert-Butylcyclohexylamino)-5-chloro-6-(1-methylsulfinylethyl)pyrimidine | C(C)(C)(C)[C@H]1CC[C@H](CC1)NC1=NC=NC(=C1Cl)C(C)S(=O)C | C17H28ClN3OS
